US07482341B2
2,4-Dichloro-N-[6-(3-fluoro-benzyloxymethyl)-pyridin-2-yl]-6-methyl-benzenesulfonamide
This material was prepared in analogy to example 1 from 6-(3-fluoro-benzyloxymethyl)-pyridin-2-ylamine (0.06 g) and 2,4-dichloro-6methyl-benzenesulfonyl chloride (0.074 g) as a yellow solid (0.12 g). MS (ESI−): 453.1 ([M−H]−).

reactant | 6-(3-fluoro-benzyloxymethyl)-pyridin-2-ylamine | 0.06 g | FC=1C=C(COCC2=CC=CC(=N2)N)C=CC1 | C13H13FN2O
reactant | 2,4-dichloro-6methyl-benzenesulfonyl chloride | 0.074 g | ClC1=C(C(=CC(=C1)Cl)C)S(=O)(=O)Cl | C7H5Cl3O2S
product | 2,4-Dichloro-N-[6-(3-fluoro-benzyloxymethyl)-pyridin-2-yl]-6-methyl-benzenesulfonamide | ClC1=C(C(=CC(=C1)Cl)C)S(=O)(=O)NC1=NC(=CC=C1)COCC1=CC(=CC=C1)F | C20H17Cl2FN2O3S
